* C:\Users\Home\OneDrive\PhD\Phocoena-DAQ\Hardware\low noise preamp\LTspice\ACAnalysis.asc
VIN IN 0 SINE(1.65, -350E-3, 20.6E3) AC 1
V2 Vp 0 3.3
V3 Vn 0 0
V1 Vref 0 1.65
XSTAGE1 IN OUT1 Vp Vn Vref stagea_bandpassdeliyannisfriendnoposfb_lt6233
XSTAGE2 OUT1 OUT2 Vp Vn Vref stagec_bandpassdeliyannisfriendnoposfb_lt6233
XSTAGE3 OUT2 OUT Vp Vn Vref stageb_bandpassdeliyannisfriendnoposfb_lt6233

* block symbol definitions
.subckt stagea_bandpassdeliyannisfriendnoposfb_lt6233 IN OUT V+ V- REF
R1 N001 IN 294
C1 OUT N001 1.2E-9
R5 OUT N002 4.42E3
C2 N002 N001 1.2E-9
R2 N001 REF 1.15E3
XU1 REF N002 OUT V+ V- NC_01 LT6233
.ends stagea_bandpassdeliyannisfriendnoposfb_lt6233

.subckt stagec_bandpassdeliyannisfriendnoposfb_lt6233 IN OUT V+ V- REF
R1 N001 IN 620
C1 OUT N001 1.5E-9
R5 OUT N002 8.87E3
C2 N002 N001 1.5E-9
R2 N001 REF 130
XU1 REF N002 OUT V+ V- NC_01 LT6233
.ends stagec_bandpassdeliyannisfriendnoposfb_lt6233

.subckt stageb_bandpassdeliyannisfriendnoposfb_lt6233 IN OUT V+ V- REF
R1 N001 IN 620
C1 OUT N001 1E-9
R5 OUT N002 8.87E3
C2 N002 N001 1E-9
R2 N001 REF 130
XU1 REF N002 OUT V+ V- NC_01 LT6233
.ends stageb_bandpassdeliyannisfriendnoposfb_lt6233

.ac dec 100 20594.816896261822 820594.8168962614
.save V(*?*) I(*?*)
* If you're having trouble with simulation try the following:\n \n- Ensure that LTspice circuit folder is unzipped.  LTspice won't \nbe able to locate subcircuits if the folders are still zipped.\n \n- Update LTspice - devices that have been recently added to LTspice\nwon't be available unless you update by clicking Tools -> Sync Release.
.lib LTC2.LIB
.backanno
.end
